### PR TITLE
Add Erdős Problem 991 (cap discrepancy of Fekete points), link the formal proof

### LINKED ISSUE #6368: Erdős Problem 991
### What is the Erdős problem?

https://www.erdosproblems.com/991

Suppose $A=\{w_1,\ldots,w_n\}\subset S^2$ maximises $\prod_{i<j}\lvert w_i-w_j\rvert$ over all possible sets of size $n$. Is it true that $\max_C\lvert \lvert A\cap C\rvert - \alpha_C n\rvert =o(n)$, where the maximum is taken over all spherical caps $C$ and $\alpha_C$ is the area of $C$ (normalised so that the entire sphere has area $1$)?

Status: proved (classical potential theory; quantitative bounds by Brauchart [Br08] and Marzo–Mas [MaMa21]). A formal proof exists in plby/lean-proofs (`Erdos991.erdos_991`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11
* ams-31
* ams-52

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6368.

Based on #6342 (Erdős 988), whose `cap`, `normalizedArea` and `discrepancy` are reused; only `991.lean` is new in this PR.

### What changed
Adds `FormalConjectures/ErdosProblems/991.lean` with `distanceProduct A = ∏_{i<j} |wᵢ - wⱼ|` and `IsDistanceProductMaximizer` (Fekete points):
- `erdos_991` (`research solved`, `answer(True)`): Fekete point sets have cap discrepancy `o(n)` (Brauchart [Br08] / classical potential theory). Linked to plby/lean-proofs `Erdos991.erdos_991` (Codex and GPT-5.6 Sol; 8 Mathlib-only files).
- Sorry'd variant: the Marzo–Mas `≪ n^{2/3}` bound.

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos991.erdos_991` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of renamed copies, same axioms (plby's discrepancy is stated with its own normalised surface probability; the bridge identifies it with `Erdos988.discrepancy` via the Archimedes cap-area lemma `rawSurface_sphericalCap`):

<details>
<summary>Bridge</summary>

```lean
open Filter Asymptotics MeasureTheory

namespace Bridge991

lemma distanceProduct_eq (A : Finset Erdos988.Sphere) :
    Erdos991.distanceProduct A = Erdos991Plby.distanceProduct A := by
  classical
  unfold Erdos991.distanceProduct Erdos991Plby.distanceProduct
    Check991Fekete.unorderedDistanceProduct Check991Fekete.pairDist
  congr 1
  ext e
  simp only [Finset.mem_filter]

lemma isDistanceProductMaximizer_iff (A : Finset Erdos988.Sphere) :
    Erdos991.IsDistanceProductMaximizer A ↔ Erdos991Plby.IsDistanceProductMaximizer A := by
  unfold Erdos991.IsDistanceProductMaximizer Erdos991Plby.IsDistanceProductMaximizer
  simp only [distanceProduct_eq]

/-- Archimedes: the normalised area of the cap with threshold `t` is `(1 - t) / 2`. -/
lemma normalizedArea_cap (u : Erdos988.Sphere) {t : ℝ} (ht : t ∈ Set.Icc (-1 : ℝ) 1) :
    Erdos988.normalizedArea (Erdos988.cap u t) = (1 - t) / 2 := by
  unfold Erdos988.normalizedArea Erdos988.surface
  rw [show Erdos988.cap u t = Erdos988Plby.sphericalCap u t from rfl,
    Erdos991Plby.rawSurface_sphericalCap u ht, Erdos991Plby.rawSurface_univ,
    ENNReal.toReal_ofReal (by nlinarith [ht.2, Real.pi_pos]),
    ENNReal.toReal_ofReal (by positivity)]
  field_simp
  ring

lemma discrepancy_eq (P : Finset Erdos988.Sphere) :
    Erdos988.discrepancy P = Erdos988Plby.sphericalCapDiscrepancy P := by
  unfold Erdos988.discrepancy Erdos988Plby.sphericalCapDiscrepancy Erdos988Plby.capErrorSet
    Erdos988Plby.capError Erdos988Plby.signedCapError Erdos988Plby.capArea
  congr 1
  ext r
  simp only [Set.mem_ofPred_eq]
  refine exists_congr fun u => exists_congr fun t => and_congr_right fun ht => ?_
  rw [normalizedArea_cap u ht]
  rfl

theorem erdos_991_bridge : type_of% Erdos991.erdos_991 := by
  show True ↔ _
  simp only [true_iff]
  intro A hcard hmax
  have h := Erdos991Plby.erdos_991 A hcard fun n => (isDistanceProductMaximizer_iff _).1 (hmax n)
  simp only [Erdos991Plby.actualSphericalCapDiscrepancy_eq] at h
  simpa only [discrepancy_eq] using h

#print axioms Erdos991Plby.erdos_991
#print axioms erdos_991_bridge

end Bridge991
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«991»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/988.lean [hunk 1]
```diff
@@ -0,0 +1,87 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/988.lean:2]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

File: FormalConjectures/ErdosProblems/991.lean [hunk 2]
```diff
@@ -0,0 +1,81 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/991.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — COMMENTED** [review]
991.lean imports FormalConjectures.ErdosProblems.«988». Problem files should import only FormalConjecturesUtil: move Sphere, cap, surface, normalizedArea and discrepancy to a ForMathlib file (for example FormalConjecturesForMathlib/MeasureTheory/SphericalCapDiscrepancy.lean) with a few basic lemmas (caps are measurable, discrepancy ≤ |P|, the (1−t)/2 area formula would be ideal), and let both problem files import only Util.
